US07282501B2
Step C: 2-[2-Bromo-5-(tert-butyl-dimethyl-silanyloxy)-benzyl]-isoindole-1,3-dione
A 12 L flask was charged with (4-bromo-3-bromomethyl-phenoxy)-tert-butyl-dimethyl-silane (568 g 1.49 mol), DMF (3.1 L), and potassium phthalimide (316 g 1.71 mol). An exotherm to 34° C. occurred. After 40 min, the reaction mixture was cooled to 18° C. Ether (6.2 L) and DI water (4.9 L) were added, and the layers were separated. The organic layer was washed with saturated NaCl solution (2 L), dried (Na2SO4), filtered, and concentrated. The residue was recrystallized from heptane (1.5 L) to give the title compound (454 g, 68%).

reactant | (4-bromo-3-bromomethyl-phenoxy)-tert-butyl-dimethyl-silane | 1.49 mol, 568 g | BrC1=C(C=C(O[Si](C)(C)C(C)(C)C)C=C1)CBr | C13H20Br2OSi
reactant | DMF | 3.1 L | CN(C)C=O | C3H7NO
reactant | potassium phthalimide | 1.71 mol, 316 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | Ether | 6.2 L | CCOCC | C4H10O
solvent | DI water | 4.9 L | O | H2O
product | 2-[2-Bromo-5-(tert-butyl-dimethyl-silanyloxy)-benzyl]-isoindole-1,3-dione | 454 g, 68% | BrC1=C(CN2C(C3=CC=CC=C3C2=O)=O)C=C(C=C1)O[Si](C)(C)C(C)(C)C | C21H24BrNO3Si
